US07968720B2
[5-(2-Azido-ethyl)-2-chloro-benzyl]-cyclopropyl-carbamic Acid tert-butyl Ester
NaN3 (1.17 g, 18.0 mmol) was added to a sol. of toluene-4-sulfonic acid 2-{3-[(tert-butoxycarbonyl-cyclopropyl-amino)-methyl]-4-chloro-phenyl}-ethyl ester (2.16 g, 4.50 mmol) in DMF (45 mL). The mixture was heated to 65° C., and stirred at this temperature for 1.5 h. The mixture was allowed to cool to rt, and poured onto water. The mixture was extracted with TBME (3×). The combined org. extracts were washed with brine, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (heptane/EtOAc 95:5) yielded the title compound (1.49 g, 94%). LC-MS: tR=1.11 min; ES+: 336.43.

reactant | NaN3 | 18.0 mmol, 1.17 g | [N-]=[N+]=[N-].[Na+]
reactant | toluene-4-sulfonic acid 2-{3-[(tert-butoxycarbonyl-cyclopropyl-amino)-methyl]-4-chloro-phenyl}-ethyl ester | 4.50 mmol, 2.16 g | C(C)(C)(C)OC(=O)N(C1CC1)CC=1C=C(C=CC1Cl)CCOS(=O)(=O)C1=CC=C(C=C1)C | C24H30ClNO5S
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | [5-(2-Azido-ethyl)-2-chloro-benzyl]-cyclopropyl-carbamic Acid tert-butyl Ester | 1.49 g, 94% | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)CCN=[N+]=[N-])Cl)=O | C17H23ClN4O2
